US07030128B2
A suspension of 2,4-dichloropyridine hydrochloride (prepared according to Effenberger et al. in Chem. Ber., 1992, 125, 1131) (1.24 g, 6.75 mmol), 2-cyanophenylboronic acid (0.97 g, 0.98 mmol) and potassium carbonate (2.84 g, 20.5 mmol) in tetrahydrofuran (23 ml) and water (11 ml) was degassed with nitrogen for 15 min. Tetrakis(triphenylphosphine)-palladium(0) (382 mg, 0.3 mmol) was then added and the mixture heated at reflux for 3 h then cooled to ambient temperature. The tetrahydrofuran layer was removed and the aqueous layer extracted with ethyl acetate. The organics were combined, dried over magnesium sulfate, filtered and adsorbed onto silica. Purification by chromatography on silica gel eluting with isohexane on a gradient of ethyl acetate (10-50%) gave an oil. Trituration with diethyl ether afforded 2-(4-chloropyridin-2-yl)benzonitrile (122 mg) as a white solid: δH (400 MHz, CDCl3) 7.39 (1H, dd, J 5.3 and 1.8), 7.53-7.57 (1H, m), 7.69-7.73 (1H, m), 7.76-7.84 (3H, m), 8.68 (1H, d, J 4.7); m/z (ES+) 215, 217 (M++H).

reactant | 2,4-dichloropyridine hydrochloride | 6.75 mmol, 1.24 g | Cl.ClC1=NC=CC(=C1)Cl
reactant | 2-cyanophenylboronic acid | 0.98 mmol, 0.97 g | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
reactant | potassium carbonate | 20.5 mmol, 2.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 23 ml | O1CCCC1 | C4H8O
solvent | water | 11 ml | O | H2O
catalyst | Tetrakis(triphenylphosphine)-palladium(0) | 0.3 mmol, 382 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(4-chloropyridin-2-yl)benzonitrile | 122 mg | ClC1=CC(=NC=C1)C1=C(C#N)C=CC=C1 | C12H7ClN2
